US06048894
(4) Preparation of 1-benzyl 3-tert-butyl 2-ethyl 1-(methoxymethyloxy)-1-propene-1,2,3-tricarboxylate
992 mg of 1-benzyl 3-tert-butyl 2-ethyl 1-oxo-1,2,3-propanetricarboxylate in 10 ml of dimethylformamide was stirred together with 131 mg of 60% oily sodium hydride at room temperature for 1 hour. After addition of 273 mg of chloromethyl methyl ether, the reaction solution was stirred for another 45 minutes, then poured into water and extracted with ethyl ether. The organic layer was dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography [hexane/ethyl acetate=5/1] to give 962 mg of the title compound as a colorless oily substance.

reactant | 1-benzyl 3-tert-butyl 2-ethyl 1-oxo-1,2,3-propanetricarboxylate | 992 mg | O=C(C(CC(=O)OC(C)(C)C)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C19H24O7
reactant | sodium hydride | 131 mg | [H-].[Na+]
reactant | chloromethyl methyl ether | 273 mg | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-benzyl 3-tert-butyl 2-ethyl 1-(methoxymethyloxy)-1-propene-1,2,3-tricarboxylate | 962 mg | COCOC(=C(CC(=O)OC(C)(C)C)C(=O)OCC)C(=O)OCC1=CC=CC=C1 | C21H28O8
